US07449475B2
N-{5-chloro-2-hydroxy-4-[(triisopropylsilyl)oxy]phenyl}cyclopentanecarboxamide
Bromo(cyclopentyl)magnesium (0.58 mL, 1.16 mmol, 2 M in diethylether) was added under inert atmosphere to a solution of 5-chloro-6-[(triisopropylsilyl)oxy]-1,3-benzoxazol-2(3H)-one (66 mg, 0.19 mmol) in tetrahydrofuran (3 mL). After stirring over night at 70° C., the solution was evaporated and dissolved in ethylacetate. The organic layer was washed with water and 1M hydrochloric acid, dried and finally concentrated to give 68 mg (89%) of the subtitled compound as a brown solid.

reactant | Bromo(cyclopentyl)magnesium | 1.16 mmol, 2 M, 0.58 mL | Br[Mg]C1CCCC1
reactant | 5-chloro-6-[(triisopropylsilyl)oxy]-1,3-benzoxazol-2(3H)-one | 0.19 mmol, 66 mg | ClC=1C(=CC2=C(NC(O2)=O)C1)O[Si](C(C)C)(C(C)C)C(C)C | C16H24ClNO3Si
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-{5-chloro-2-hydroxy-4-[(triisopropylsilyl)oxy]phenyl}cyclopentanecarboxamide | 68 mg, 89% | ClC=1C(=CC(=C(C1)NC(=O)C1CCCC1)O)O[Si](C(C)C)(C(C)C)C(C)C | C21H34ClNO3Si
